US06699863B1
Preparation of 3-(5-Dimethylamino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one
A solution of oxindole (938 mg, 7.05 mmol) in 20 mL of DME was cooled to 0° C., and treated with 6.2 mL of 2.5M n-BuLi/hexane solution (15.5 mmol) dropwise under nitrogen. The mixture was stirred at 0° C. for 10 minutes. 5-dimethylaninophthalide (1.0 g, 5.64 mmol) was added as one portion. The mixture was allowed to warm to room temperature under nitrogen and stirring was continued for 3 hours. The cloudy mixture was then slowly added into 0.5M aqueous HCl solution (0° C.) with vigorous stirring. The resulting mixture was neutralized with 1M NaOH solution until pH=9. The yellow precipitate which formed was collected by filtration, washed with water, dried under vacuum. The solid obtained was triturated with hot MeOH (20 mL), collected by filtration and dried to give title compound (990 mg, 60%) as a bright yellow powder.

reactant | oxindole | 7.05 mmol, 938 mg | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | n-BuLi hexane | 15.5 mmol, 2.5M, 6.2 mL | [Li]CCCC.CCCCCC
reactant | 5-dimethylaninophthalide | 5.64 mmol, 1.0 g | CN(C=1C=C2COC(=O)C2=CC1)C | C10H11NO2
reactant | HCl | 0.5M | Cl | ClH
reactant | NaOH | 1M | [OH-].[Na+]
solvent | DME | 20 mL | COCCOC | C4H10O2
product | 3-(5-Dimethylamino-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | 990 mg, 60% | CN(C=1C=C2COC(C2=CC1)=C1C(NC2=CC=CC=C12)=O)C | C18H16N2O2
